US06562807B2
4-{[tert-Butoxycarbonyl-(4-cyclohexylphenyl)amino]methyl}benzoic acid methyl ester was suspended in ethanol (30 mL) and sodium hydroxide (4 N, 8.1 mL) was added. The reaction mixture was stirred overnight. The mixture was concentrated to dryness, suspended in water (100 mL), acidified with hydrochloric acid (8.5 mL, 4 N) and extracted with ethyl acetate (100 mL). The aqueous phase was extracted once more with ethyl acetate (30 mL) and the combined organic phases were washed with water (3×50 mL), dried with magnesium sulphate and concentrated in vacua. The residue was crystallised from a mixture of ethyl acetate and n-heptane to afford 1.75 g of 4-{[tert-butoxycarbonyl-(4-cyclohexylphenyl)amino]methyl}-benzoic acid.

reactant | 4-{[tert-Butoxycarbonyl-(4-cyclohexylphenyl)amino]methyl}benzoic acid methyl ester | COC(C1=CC=C(C=C1)CN(C1=CC=C(C=C1)C1CCCCC1)C(=O)OC(C)(C)C)=O | C26H33NO4
reactant | sodium hydroxide | 4 N, 8.1 mL | [OH-].[Na+]
solvent | ethanol | 30 mL | C(C)O | C2H6O
product | 4-{[tert-butoxycarbonyl-(4-cyclohexylphenyl)amino]methyl}-benzoic acid | 1.75 g | C(C)(C)(C)OC(=O)N(C1=CC=C(C=C1)C1CCCCC1)CC1=CC=C(C(=O)O)C=C1 | C25H31NO4
